US06136823
Synthesis of Ethyl 3-Chloro-2,4,5-trifluoro-6-methylbenzoylacetate
Magnesium (240 mg), ethanol (1 ml) and carbon tetrachloride (0.1 ml) were stirred at room temperature in a three necked flask to activate them. A solution of ethyl malonate (1.5 ml) in tetrahydrofuran (8 ml) was slowly added dropwise to the activated mixture, followed by stirring at 80° C. for 4 hours. After the reaction mixture was allowed to cool, it was chilled to -40° C. Oxalyl chloride (0.8 ml) and N,N-dimethylformamide (1 drop) were added to a solution of 3-chloro-2,4,5-trifluoro-6-methylbenzoic acid (2 g) in methylene chloride (5 ml). The mixture was stirred at room temperature for 3.5 hours, and the solvent and reagents remaining in the reaction mixture were distilled off under reduced pressure. Toluene was added to the residue to conduct azeotropic distillation. The resultant residue was dissolved in tetrahydrofuran (5 ml), and the solution was slowly added dropwise at -40° C. to the reaction mixture obtained previously. After completion of the addition, the temperature of the reaction mixture was given back to room temperature to conduct stirring overnight. The solvent in the reaction mixture was distilled off, and 12N hydrochloric acid (2 ml) was added to the resultant residue to keep its pH at about 2. The residue was then extracted with chloroform, and the solvent was distilled off under reduced pressure. Water (10 ml) and p-toluenesulfonic acid monohydrate (100 mg) were added to the resultant residue, and the mixture was stirred for 4.5 hours while heating under reflux. After the reaction mixture was allowed to cool, it was extracted with chloroform. An organic layer was washed with water dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel to obtain the title compound (600 mg) as a pale yellow oil from a fraction eluted with a 1:10 mixture of ethyl acetate and hexane.

reactant | Magnesium | 240 mg | [Mg] | Mg
reactant | ethyl malonate | 1.5 ml | C(CC(=O)[O-])(=O)OCC
reactant | Oxalyl chloride | 0.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-chloro-2,4,5-trifluoro-6-methylbenzoic acid | 2 g | ClC=1C(=C(C(=O)O)C(=C(C1F)F)C)F | C8H4ClF3O2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 0.1 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | Ethyl 3-Chloro-2,4,5-trifluoro-6-methylbenzoylacetate | 600 mg | ClC=1C(=C(C(=O)CC(=O)OCC)C(=C(C1F)F)C)F | C12H10ClF3O3
